US05594023
1-[(1-Acetylindolin-5-yl)sulfonyl]-5-chloro-3-(2-chlorophenyl)-1,3-dihydro-3-[(3-methoxypropyl)amino]indol-2-one hemihydrate
This compound is prepared according to the procedure described in EXAMPLE 222 from 1 g of 5-chloro-3-(2-chlorophenyl)-1,3-dihydro-3-[(3-methoxypropyl)amino]indol-2-one and 0.711 g of 1-acetylindoline-5-sulfonyl chloride. 0.921 g of the expected product is obtained after crystallization from a DCM/iso ether mixture. M.p=158°-162° C.

reactant | 5-chloro-3-(2-chlorophenyl)-1,3-dihydro-3-[(3-methoxypropyl)amino]indol-2-one | 1 g | ClC=1C=C2C(C(NC2=CC1)=O)(NCCCOC)C1=C(C=CC=C1)Cl | C18H18Cl2N2O2
reactant | 1-acetylindoline-5-sulfonyl chloride | 0.711 g | C(C)(=O)N1CCC2=CC(=CC=C12)S(=O)(=O)Cl | C10H10ClNO3S
product | 1-[(1-Acetylindolin-5-yl)sulfonyl]-5-chloro-3-(2-chlorophenyl)-1,3-dihydro-3-[(3-methoxypropyl)amino]indol-2-one hemihydrate | 0.921 g | O.C(C)(=O)N1CCC2=CC(=CC=C12)S(=O)(=O)N1C(C(C2=CC(=CC=C12)Cl)(NCCCOC)C1=C(C=CC=C1)Cl)=O.C(C)(=O)N1CCC2=CC(=CC=C12)S(=O)(=O)N1C(C(C2=CC(=CC=C12)Cl)(C1=C(C=CC=C1)Cl)NCCCOC)=O | InChI=1S/2C28H27Cl2N3O5S.H2O/c2*1-18(34)32-14-12-19-16-21(9-11-25(19)32)39(36,37)33-26-10-8-20(29)17-23(26)28(27(33)35,31-13-5-15-38-2)22-6-3-4-7-24(22)30;/h2*3-4,6-11,16-17,31H,5,12-15H2,1-2H3;1H2
